US04410529
5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are dissolved in 100 ml of absolute tetrahydrofuran by stirring and heating to 60° C. The solution is allowed to cool to room temperature, 5.15 g (29.7 millimoles) of 2,2-dichlorocyclopropanecarboxylic acid chloride, dissolved in 10 ml of absolute tetrahydrofuran, are added dropwise and the mixture is then stirred for 6 hours under reflux. Thereafter it is concentrated to about 50 ml and the product is filtered off at 10° C., washed with water and recrystallized from dimethylformamide/water. 5.0 g (60% of theory) of 6-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone are obtained as colorless crystals, of melting point 252°-253° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2,2-dichlorocyclopropanecarboxylic acid chloride | 29.7 millimoles, 5.15 g | ClC1(C(C1)C(=O)Cl)Cl | C4H3Cl3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 5.0 g, 60% | ClC1(C(C1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)Cl | C15H15Cl2N3O2
